US06143198
4'-(4-(2-Hydroxypentyl)cyclohexyl)-4-trifluoromethoxybiphenyl (12.3 mmol) was added at 0 or below in the absence of a solvent to a mixture of PCC (13.5 mmol), 3 g of silica gel, and 70 ml of methylene chloride, and the mixture was stirred at room temperature for 7 hr to give a black suspension. 500 ml of toluene was added thereto, and the mixture was stirred. The precipitated insolubles were filtered off through Celite, and the solvent was distilled off from the resultant black solution under reduced pressure to give a dark brown crude product. The crude product was purified by silica gel column chromatography (eluting solution: toluene) to give 4'-(4-(2-oxopentyl)cyclohexyl)-4-trifluoromethoxybiphenyl (7.4 mmol, yield 66%) as a white crystal.

reactant | 4'-(4-(2-Hydroxypentyl)cyclohexyl)-4-trifluoromethoxybiphenyl | 12.3 mmol | OC(CC1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)CCC | C24H29F3O2
reactant | PCC | 13.5 mmol | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-(4-(2-oxopentyl)cyclohexyl)-4-trifluoromethoxybiphenyl | 7.4 mmol, yield 66% | O=C(CC1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)CCC | C24H27F3O2
